US07414076B2
Preparation of 3-(4-methylcyclohexyl)amino-1-propanesulfonic acid (Compound DR)
To a solution of 4-methylcyclohexylamine (97% cis and trans isomers, 11.0 g, 97.4 mmol) in tetrahydrofuran (70 mL) was slowly added a solution of 1,3-propane sultone (11.5 g, 92.8 mmol) in THF (20 mL). The mixture was stirred at reflux for 2 hours. The reaction mixture was cooled to room temperature. The solid material was collected by filtration, washed with THF (50 mL) and acetone (50 mL). The solid was suspended EtOH. The suspension was stirred at room temperature for 5 minutes. The solid product was collected by filtration, washed with EtOH (50 mL), and dried in a vacuum oven (50° C.), to afford compound DR (16.1 g, 75%). 1H NMR (D2O, 500 MHz) δ ppm 3.08 (m, 2.5H), 2.93 (m, 0.5H), 2.87 (m, 2H), 1.99 (m, 4H), 1.64 (m, 3H), 1.47 (m, 1H), 1.24 (m, 2H), 0.88 (m, 1H), 0.78 (m, 3H). 13C NMR (D2O, 125 MHz) δ ppm 57.35, 56.52, 48.16, 18.05, 43.73, 43.30, 32.45, 31.13, 28.92, 28.69, 27.77, 24.55, 21.65, 21.53, 21.20, 18.38. ES-MS 236 (M+1).

reactant | 4-methylcyclohexylamine | 97.4 mmol, 11.0 g | CC1CCC(CC1)N | C7H15N
reactant | 1,3-propane sultone | 92.8 mmol, 11.5 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(4-methylcyclohexyl)amino-1-propanesulfonic acid | CC1CCC(CC1)NCCCS(=O)(=O)O | C10H21NO3S
